US04775671
15 g (46.1 mmol) of 1-[[8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole are suspended in 75 ml of N,N-dimethylformamide, whereupon the suspension is treated with 7.8 ml (102 mmol) of a 25 percent aqueous ammonia solution, the mixture is stirred at room temperature for 0.75 hour and then poured into 300 ml of water. The product is filtered off under suction after 1 hour, rinsed with water and dried at 85° in a vacuum drying oven. There is obtained 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide of melting point 272°-273°.

reactant | 1-[[8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | 46.1 mmol, 15 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)N3C=NC=C3)C)=O)C1 | C16H12FN5O2
reactant | ammonia | N | H3N
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)N)C)=O)C1 | C13H11FN4O2
